US04117168
Preparation of Bis(p-chlorophenyl)methyl methyl sulfoxide (V)
A solution of 10.7 grams (0.0525 mole) of m-chloroperbenzoic acid in 150 ml. of chloroform was slowly added to a cool solution (5°-7° C.) of 14.1 grams (0.050 mole) of bis(p-chlorophenyl)methyl methyl sulfide in 500 ml. of chloroform, and the resulting solution stirred for 2 hours at a temperature of 5° C., while a white precipitate formed. The mixture after warming to ambient temperature and holding at this temperature for a two hour period was then mixed with a solution having 20 grams of potassium carbonate in 200 ml. of water. The chloroform phase was then removed and washed with 100 ml. of water, and the chloroform distilled off; the vacuum distillation leaving 14.7 grams of a crude product which was recrystallized twice from 2,2,4-trimethylpentane-benzene (2:1) mixture to yield 11.7 grams (78 percent) of the white colored solid of bis(p-chlorophenyl)methyl methyl sulfoxide with a melting point of 109.5°-110.5° C.

reactant | m-chloroperbenzoic acid | 0.0525 mole, 10.7 grams | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | bis(p-chlorophenyl)methyl methyl sulfide | 0.050 mole, 14.1 grams | CSC(C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)Cl | C14H12Cl2S
reactant | potassium carbonate | 20 grams | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
product | Bis(p-chlorophenyl)methyl methyl sulfoxide | 11.7 grams, 78 percent | CS(=O)C(C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)Cl | C14H12Cl2OS
